US06147255
(a) Methyl 5-(3-tert-butyl-4-methoxyphenyl)-2-thiophenecarboxylate
A solution of 2 g (8.2 mmol) of 3-tert-butyl-4-methoxybromobenzene is added dropwise to a suspension of 300 mg (12 mmol) of magnesium in 10 ml of THF. Once the addition is complete, the mixture is refluxed for one hour. At room temperature, 1.35 g (9.9 mmol) of anhydrous zinc chloride are added and the mixture is stirred for one hour. 1.2 g (5.5 mmol) of methyl 5-bromo-2-thiophenecarboxylate and 60 mg (0.12 mmol) of the NiCl2 /DPPE complex are then added successively and the mixture is left stirring at room temperature for 12 hours. The reaction medium is poured into ice-water and extracted with ethyl ether and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is chromatographed on a column of silica eluted with a mixture of hexane and dichloromethane (50/50% by volume). After evaporation of the solvents, 1.56 g (93%) of the expected methyl ester are collected, with a melting point of 94-5° C.

reactant | 3-tert-butyl-4-methoxybromobenzene | 8.2 mmol, 2 g | C(C)(C)(C)C=1C=C(C=CC1OC)Br | C11H15BrO
reactant | magnesium | 12 mmol, 300 mg | [Mg] | Mg
reactant | methyl 5-bromo-2-thiophenecarboxylate | 5.5 mmol, 1.2 g | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 9.9 mmol, 1.35 g | [Cl-].[Zn+2].[Cl-]
product | Methyl 5-(3-tert-butyl-4-methoxyphenyl)-2-thiophenecarboxylate | C(C)(C)(C)C=1C=C(C=CC1OC)C1=CC=C(S1)C(=O)OC | C17H20O3S
